US05283271
3-(p-Methopyphenyl phenyl-1-hydroxy-1,2-dihydroimidazole-2-thione
The thiohydroxamine acid, 3-(p-methoxyphenyl)-5-phenyl-1-hydroxy-1,2-dihydroimidazole-2-thione, was prepared from the thiocarbamate in a manner similar to that used in Example I. The 3-(p-methoxyphenyl)-5-phenyl-1-hydroxy-1,2-dihydroimidazole-2-thione was recrystallized from methylene chloride/hexane to give white crystalline material. mp: 168° C. (dec); IR (CH2Cl2): 2800-1756-1510-1383-1361-1241-1133 cm-1 ; 1H NMR (200 MHz, CDCl3 : DMSO 1:1): 3.82 (3H, OCH3, s); 6.5 (2H, d); 7.15 (1H, CH=, s); 7.4 (3H, m); 7.54 (2H, d); 7.71 (2H, d); 11.85 (1H, OH, br); 13C NMR (CDCl3 : DMSO 1:1): 54 (OCH3): 110.6 (CH=); 112.6 (CH); 125.6 (CH); 125.7 (CH); 127 (CH); 127.2 (CH); 129.5 (Cq); 157.6 (CH); Anal. Calcd for C16H14N2O2 5: C, 64.40; H, 4.73; N, 9.39; S,10.74 Found C, 64.48; H, 4.24; N,9.43; S, 10.68.

reactant | 3-(p-methoxyphenyl)-5-phenyl-1-hydroxy-1,2-dihydroimidazole-2-thione | COC1=CC=C(C=C1)N1C(N(C(=C1)C1=CC=CC=C1)O)=S | C16H14N2O2S
reactant | thiocarbamate | C(N)([O-])=S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | phenyl-1-hydroxy-1,2-dihydroimidazole-2-thione | C1(=CC=CC=C1)C=1NC(N(C1)O)=S | C9H8N2OS
